US07037927B2
4-[5-(trifluoromethyl)-1H-pyrazol-1-yl]benzoic Acid
A mixture of 4-hydrazinobenzoic acid (0.501 g, 3.29 mmol) and 4ethoxy-1,1,1-trifluoro-3-buten-2-one (0.48 mL, 3.4 mmol) in EtOH (15 mL) was heated to 75° C. for 17 hours, allowed to cool to room temperature, and concentrated under reduced pressure to provide a solid. The obtained solid was suspended in CHCl3 (15 mL), treated with P2O5 (0.50 g, 3.5 mmol), and heated at 65° C. for 6 hours. After cooling to room temperature, the mixture was treated with 1N NaOH (5 mL) and stirred for 30 minutes. The mixture was quenched with 1N HCl (6 mL) and extracted with CH2Cl2 (3×8 mL). The extracts were combined, dried (Na2SO4), filtered, and the filtrate concentrated to provide the title compound as a solid.

reactant | 4-hydrazinobenzoic acid | 3.29 mmol, 0.501 g | N(N)C1=CC=C(C(=O)O)C=C1 | C7H8N2O2
reactant | 4ethoxy-1,1,1-trifluoro-3-buten-2-one | 3.4 mmol, 0.48 mL | C(C)OC=CC(C(F)(F)F)=O | C6H7F3O2
reactant | P2O5 | 3.5 mmol, 0.50 g | O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3 | O10P4
reactant | NaOH | 1N, 5 mL | [OH-].[Na+]
solvent | EtOH | 15 mL | CCO | C2H6O
solvent | CHCl3 | 15 mL | C(Cl)(Cl)Cl | CHCl3
product | 4-[5-(trifluoromethyl)-1H-pyrazol-1-yl]benzoic Acid | FC(C1=CC=NN1C1=CC=C(C(=O)O)C=C1)(F)F | C11H7F3N2O2
